US08492395B2
A stirred mixture of 5-chloroisatoic anhydride (0.51 g, 2.5 mmol), 3-amino-piperidine-2,6-dione hydrogen chloride (0.42 g, 2.5 mmol), triethylamine (1.8 mL, 12.7 mmol), and acetic acid (1.5 mL, 25.3 mmol) in acetonitrile (5 mL) was heated at 150° C. in a microwave oven for 5 minutes. The suspension was filtered and washed with water (50 mL) and ethyl acetate (20 mL) to give 2-amino-N-(2,6-dioxo-piperidin-3-yl)-5-chloro-benzamide as a white solid (0.31 g, 42% yield): 1H NMR (DMSO-d6) δ 1.91-2.12 (m, 2H, 2CHH), 2.50-2.56 (m, 1H, CHH), 2.72-2.80 (m, 1H, CHH), 4.71-4.76 (m, 1H, NCH), 6.58 (brs, 2H, NH2), 6.74 (d, J=8 Hz, 1H, Ar), 7.19 (dd, J=2, 9 Hz, 1H, Ar), 7.58 (t; J=2 Hz, 1H, Ar), 8.62 (d, J=8 Hz, 1H, NH), 10.86 (s, 1H, NH); 13C NMR (DMSO-d6) δ23.99, 30.89, 49.00, 114.62, 117.60, 118.04, 127.25, 131.63, 148.61, 167.37, 172.20, 172.93; LCMS: MH=282, 284.

reactant | 5-chloroisatoic anhydride | 2.5 mmol, 0.51 g | ClC1=CC=C2C(C(=O)OC(N2)=O)=C1 | C8H4ClNO3
reactant | 3-amino-piperidine-2,6-dione hydrogen chloride | 2.5 mmol, 0.42 g | Cl.NC1C(NC(CC1)=O)=O
reactant | triethylamine | 12.7 mmol, 1.8 mL | C(C)N(CC)CC | C6H15N
reactant | acetic acid | 25.3 mmol, 1.5 mL | C(C)(=O)O | C2H4O2
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 2-amino-N-(2,6-dioxo-piperidin-3-yl)-5-chloro-benzamide | 0.31 g, 42% yield | NC1=C(C(=O)NC2C(NC(CC2)=O)=O)C=C(C=C1)Cl | C12H12ClN3O3
